US05373011
Preparation of 4-(Dimethylamino)-8-quinazolinol
Dimethylamine gas is bubbled slowly through a solution of 4-chloro-8-quinazolinol (0.7 g, 3.88 mmol) in dichloromethane, under a nitrogen atmosphere, at 3° C. for 20 minutes. The cooling bath is removed and dimethylamine gas is bubbled through the reaction mixture for an additional 30 minutes. The reaction mixture is then concentrated in vacuo to obtain a grey solid. The solid is washed with water and extracted with 10% sodium hydroxide solution. The combined extracts are acidified to pH 7.0 and extracted with dichloromethane. The organic extracts are combined, dried over MgSO4 and concentrated in vacuo to give the title product as a grey solid, 0.36 g, mp 104°-105° C.

reactant | Dimethylamine | CNC | C2H7N
reactant | 4-chloro-8-quinazolinol | 3.88 mmol, 0.7 g | ClC1=NC=NC2=C(C=CC=C12)O | C8H5ClN2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(Dimethylamino)-8-quinazolinol | CN(C1=NC=NC2=C(C=CC=C12)O)C | C10H11N3O
